US07109186B2
Compound 75: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [1-(4-chloro-benzyl)-2-(4-chloro-phenyl)-ethyl]-methyl-amide
N-[1-(4-Chloro-benzyl)-2-(4-chloro-phenyl)-ethyl]-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide, prepared using the methods described in the previous examples, was treated in methanol with paraformaldehyde and methylamine as described in the preparation of Compound 44, Method 44B, to give the title compound as white crystals (56% yield); mp 152–154° C. 1HNMR 400 MHz (DMSO-d6) δ (ppm): mixture of rotamers: 2.7–3.0 (4H, m, CH2), 2.84 (3H, s, NCH3), 2.9 (3H, broad s, NCH3), 3.4 and 3.7 (2H, two broad s, NCH2), 4.16 and 4.9 (1H, broad m, CH), 7.15–7.34 (8H, m, aromatics), 10.7 and 11.0 (1H, two s, OH). HRMS (MAB N2) calculated for C22H22Cl2N2O3: [M]+: 432.100748. found: 432.100835.

reactant | N-[1-(4-Chloro-benzyl)-2-(4-chloro-phenyl)-ethyl]-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide | ClC1=CC=C(CC(CC2=CC=C(C=C2)Cl)N(C(C=C2OC(OC2=O)(C)C)=O)C)C=C1 | C23H23Cl2NO4
reactant | paraformaldehyde | C=O | CH2O
reactant | methylamine | CN | CH5N
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [1-(4-chloro-benzyl)-2-(4-chloro-phenyl)-ethyl]-methyl-amide | 56% yield | ClC1=CC=C(CC(CC2=CC=C(C=C2)Cl)N(C(=O)C=2CN(C(C2O)=O)C)C)C=C1 | C22H22Cl2N2O3
